US05977105
c) (±)-α-(Naphthylthioethyl)-3-pyridinepropanol
1-(3-Pyridyl)-5-(2-naphthylthio)-3-pentanone (0.142 g) and sodium borohydride (0.025 g) were dissolved in ethanol (20 ml) and stirred for 15 hours at room temperature. Water was added to the reaction mixture, which was extracted with dichloromethane, the extracts dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with dichloromethane:ethyl acetate (1:3) to give the title compound as a white solid (0.040 g).

reactant | 1-(3-Pyridyl)-5-(2-naphthylthio)-3-pentanone | 0.142 g | N1=CC(=CC=C1)CCC(CCSC1=CC2=CC=CC=C2C=C1)=O | C20H19NOS
reactant | sodium borohydride | 0.025 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (±)-α-(Naphthylthioethyl)-3-pyridinepropanol | 0.040 g | C1(=CC=CC2=CC=CC=C12)SCCC(CCC=1C=NC=CC1)O | C20H21NOS
